US06806024B1
A solution of 8.8 g (0.39 mol) of crude 2-methoxyethyl α-(hydroxyimino)-2-phenylacetate and 5.98 g of triethylamine in 65 ml tetrahydrofuran is cooled in an ice bath, and 8.3 g (0.043 mol) of p-toluenesulfonic acid chloride dissolved in 18 ml of tetrahydrofuran are added dropwise over 30 minutes. The resulting suspension is stirred for 16 hours at room temperature and then poured onto ice/water. The mixture is extracted with ethyl acetate, the organic layer washed with diluted HCI and water and dried over magnesium sulfate. Evaporation of the solvent gives an orange oil which is purified by chromatography on silica gel (eluent hexane/ethyl acetate 3:1). 12.68 g (86%) 2-Methoxyethyl α-(4-methylphenylsulfonyloxyimino)-2-phenylacetate are thus obtained as a colorless liquid. According to 1H-NMR-analysis, the product is a mixture of 72% of the trans isomer and 28% of the cis isomer.

reactant | 2-methoxyethyl α-(hydroxyimino)-2-phenylacetate | 0.39 mol, 8.8 g | ON=C(C(=O)OCCOC)C1=CC=CC=C1 | C11H13NO4
reactant | triethylamine | 5.98 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid chloride | 0.043 mol, 8.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 2-Methoxyethyl α-(4-methylphenylsulfonyloxyimino)-2-phenylacetate | 12.68 g, 86% | CC1=CC=C(C=C1)S(=O)(=O)ON=C(C(=O)OCCOC)C1=CC=CC=C1 | C18H19NO6S
